US09120776B2
To a solution of 9-ethyl-9H-carbazol-3-amine (300 mg, 1.43 mmol) in toluene (4 mL) was added trimethylaluminium (1.8M in toluene solution, 1.189 mL, 2.14 mmol), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added a solution of 4-hydroxy-4-methyltetrahydro-2H-pyran-2-one (186 mg, 1.43 mmol) in toluene (4 mL) at room temperature, and the mixture was stirred at 80° C. for 4 hr. The reaction mixture was cooled to 0° C., neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 10 to 100% ethyl acetate/hexane) to give N-(9-ethyl-9H-carbazol-3-yl)-3,5-dihydroxy-3-methylpentanamide (359 mg, 1.056 mmol, 74.0%) as a colorless oil.

reactant | 9-ethyl-9H-carbazol-3-amine | 1.43 mmol, 300 mg | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
reactant | trimethylaluminium | 2.14 mmol, 1.8M, 1.189 mL | C[Al](C)C
reactant | 4-hydroxy-4-methyltetrahydro-2H-pyran-2-one | 1.43 mmol, 186 mg | OC1(CC(OCC1)=O)C | C6H10O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | N-(9-ethyl-9H-carbazol-3-yl)-3,5-dihydroxy-3-methylpentanamide | 1.056 mmol, 359 mg, 74.0% | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(CC(CCO)(C)O)=O | C20H24N2O3
